US06107482
1-(Methanesulfonyl)-3-chloropropanol 2 (FIG. 1)
To a solution of 3-chloro-1-propanol (283 g, 2.99 mol) and triethylamine (629 mL, 4.5 mol) in CH3CN (3500 mL) at 10° C. was added dropwise methanesulfonyl chloride (518 g, 4.52 mol). The resulting reaction mixture was stirred overnight at room temperature, filtered and concentrated in vacuo to an oil. The oil was dissolved in CH2Cl2 and purified by filtration through silica gel. The appropriate fractions were combined and concentrated in vacuo to give the title compound 335 g (65%). TLC (Rf: 0.3; 20% EtOAc/Hexane). 1H NMR (CDCl3) δ 2.1 (m, 2H, CH2), 2.96 (s, 3H, CH3), 3.59 (t, 2H, CH2), 4.28 (t, 2H, CH2). 13C NMR (CDCl3) δ 31.5 (CH2), 37.0 (CH3), 40.2 (CH2), 66.3 (CH2).

reactant | 3-chloro-1-propanol | 2.99 mol, 283 g | ClCCCO | C3H7ClO
reactant | triethylamine | 4.5 mol, 629 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.52 mol, 518 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH3CN | 3500 mL | CC#N | C2H3N
product | 1-(Methanesulfonyl)-3-chloropropanol | 335 g, 65% | CS(=O)(=O)C(CCCl)O | C4H9ClO3S
